US08748627B2
tert-butyl 2-chloro-4-hydroxyphenylcarbamate
4-Amino-3-chloro-phenol hydrochloride (20 g, 0.11 mol) was dissolved in tetrahydrofuran (92 mL) and triethylamine (15.5 mL, 0.11 mol) at room temperature. To this solution was added di-tert-butyl dicarbonate (24 g, 0.12 mol) as a solid portion-wise over 15 minutes. The resulting reaction solution was heated to reflux for 1.5 hours, cooled to room temperature and poured into saturated aqueous NH4Cl. It was then extracted with ethyl acetate (2×) and the combined organics were dried (Na2SO4), filtered and concentrated by rotary evaporation. The resulting solid was triturated with hexanes to give the title compound (23.5 g, 0,096 mmol 80%) as a light brown solid. MS (ESI APCI) m/z 241.9 (M−H+); 1H NMR (300 MHz, DMSO-d6) δ 9.75 (s, 1H) 8.40 (s, 1H) 7.18 (d, J=8.46 Hz, 1H) 6.82 (d, J=2.57 Hz, 1H) 6.68 (dd, J=8.64, 2.76 Hz, 1H) 1.46 (s, 9H).

reactant | 4-Amino-3-chloro-phenol hydrochloride | 0.11 mol, 20 g | Cl.NC1=C(C=C(C=C1)O)Cl
reactant | triethylamine | 0.11 mol, 15.5 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.12 mol, 24 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofuran | 92 mL | O1CCCC1 | C4H8O
product | tert-butyl 2-chloro-4-hydroxyphenylcarbamate | 0,096 mmol, 23.5 g, 80% | ClC1=C(C=CC(=C1)O)NC(OC(C)(C)C)=O | C11H14ClNO3
